US04636516
To a solution of 1.5 ml of dimethylformamide in 10 ml of chloroform was added 1.1 g of phosphorus oxychloride under ice-cooling and the mixture was allowed to stand for one hour. To the reaction mixture was added 1.5 g of 6-(3,5-di-tert-butyl-4-hydroxyphenyl)-2,3-dihydroimidazo[2,1-b]thiazole and the mixture was refluxed for 4 hours. To the reaction mixture was added 20 ml of an aqueous 10% potassium carbonate solution and the mixture was stirred for 15 minutes. The chloroform layer was dried and concentrated. The crystals thus obtained were recrystallized from ethanol to provide 1.0 g of 6-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-formyl-2,3-dihydroimidazo[2,1-b]thiazole.

reactant | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 1.1 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 6-(3,5-di-tert-butyl-4-hydroxyphenyl)-2,3-dihydroimidazo[2,1-b]thiazole | 1.5 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1N=C2SCCN2C1 | C19H26N2OS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-formyl-2,3-dihydroimidazo[2,1-b]thiazole | 1.0 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1N=C2SCCN2C1C=O | C20H26N2O2S
